US07396836B2
5-[2-Amino-4,6-di(2-furyl)-5-pyrimidinyl]-1-ethyl-1,2-dihydro-2-pyridinone
The title compound was synthesized in a similar manner to Example 66 using 5-[2-amino-4,6-di(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone and ethyl iodide.

reactant | 5-[2-amino-4,6-di(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | NC1=NC(=C(C(=N1)C=1OC=CC1)C=1C=CC(NC1)=O)C=1OC=CC1 | C17H12N4O3
reactant | ethyl iodide | C(C)I | C2H5I
product | 5-[2-Amino-4,6-di(2-furyl)-5-pyrimidinyl]-1-ethyl-1,2-dihydro-2-pyridinone | NC1=NC(=C(C(=N1)C=1OC=CC1)C=1C=CC(N(C1)CC)=O)C=1OC=CC1 | C19H16N4O3
